US07732463B2
1-Bromo-3-fluoro-2-(4-methoxy-phenylsulfanyl)-benzene (intermediate for 2d).
Prepared from 4-methoxy-benzenethiol and 1-bromo-3-fluoro-2-iodo-benzene (prepared from 2-bromo-6-fluoro-phenylamine by diazotization according to the general procedure by Tunney and Stille J. Org. Chem. 1987, 52, 748-753).

reactant | 4-methoxy-benzenethiol | COC1=CC=C(C=C1)S | C7H8OS
reactant | 1-bromo-3-fluoro-2-iodo-benzene | BrC1=C(C(=CC=C1)F)I | C6H3BrFI
reactant | 2-bromo-6-fluoro-phenylamine | BrC1=C(C(=CC=C1)F)N | C6H5BrFN
product | 1-Bromo-3-fluoro-2-(4-methoxy-phenylsulfanyl)-benzene | BrC1=C(C(=CC=C1)F)SC1=CC=C(C=C1)OC | C13H10BrFOS
